US08137457B2
Cadmium Myristate
Cadmium nitrate (5 mmol) was dissolved in anhydrous methanol (50 mL). A sodium-myristate solution was prepared by dissolving sodium hydroxide (15 mmol) and myristic acid (15 mmol) in anhydrous methanol (500 mL). Then the cadmium-nitrate solution was added dropwise (one drop per second) into the sodium-myristate solution with vigorous stirring. The resulting white precipitate was washed with methanol three times, and then dried at ˜60° C. under vacuum overnight.

reactant | Cadmium nitrate | 5 mmol | [N+](=O)([O-])[O-].[Cd+2].[N+](=O)([O-])[O-]
reactant | sodium hydroxide | 15 mmol | [OH-].[Na+]
reactant | myristic acid | 15 mmol | C(CCCCCCCCCCCCC)(=O)O | C14H28O2
reactant | sodium-myristate | C(CCCCCCCCCCCCC)(=O)[O-].[Na+]
solvent | methanol | 50 mL | CO | CH4O
solvent | methanol | 500 mL | CO | CH4O
product | Cadmium Myristate | C(CCCCCCCCCCCCC)(=O)[O-].[Cd+2].C(CCCCCCCCCCCCC)(=O)[O-] | InChI=1S/2C14H28O2.Cd/c2*1-2-3-4-5-6-7-8-9-10-11-12-13-14(15)16;/h2*2-13H2,1H3,(H,15,16);/q;;+2/p-2
